US09422281B2
Pyridine (4.07 μL, 0.050 mmol) was added to a solution of isopropyl (S)-4-acetyl-6-amino-7-(1-cyclopropyl-1H-pyrazol-4-yl)-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate (0.010 g, 0.025 mmol) in 1,4-dioxane (200 μL). Methanesulfonyl chloride (1.96 μL, 0.025 mmol) was added, and the mixture stirred at rt for 18 h. The reaction mixture was concentrated and ethyl acetate was added. The solution was washed with 1 N aqueous HCl, and the organic phase was separated and concentrated to afford isopropyl (S)-4-acetyl-7-(1-cyclopropyl-1H-pyrazol-4-yl)-3-methyl-6-(methylsulfonamido)-3,4-dihydroquinoxaline-1(2H)-carboxylate (0.0087 g, 73% yield). 1H NMR (400 MHz, CDCl3) δ ppm 1.07-1.16 (m, 6 H), 1.18-1.36 (m, 8H), 2.30 (s, 3 H), 2.99 (s, 3 H), 3.58-3.80 (m, 2 H), 3.84-3.99 (m, 1 H), 4.99-5.08 (m, 1 H), 6.85 (br s, 1 H), 7.49-7.50 (m, 1 H), 7.71 (d, J=4.40 Hz, 2 H), 7.97 (br s, 1 H). MS (ESI, pos. ion) m/z 476 [M+H]+.

reactant | Pyridine | 0.050 mmol, 4.07 μL | N1=CC=CC=C1 | C5H5N
reactant | isopropyl (S)-4-acetyl-6-amino-7-(1-cyclopropyl-1H-pyrazol-4-yl)-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | 0.025 mmol, 0.010 g | C(C)(=O)N1[C@H](CN(C2=CC(=C(C=C12)N)C=1C=NN(C1)C1CC1)C(=O)OC(C)C)C | C21H27N5O3
reactant | Methanesulfonyl chloride | 0.025 mmol, 1.96 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | 1,4-dioxane | 200 μL | O1CCOCC1 | C4H8O2
product | isopropyl (S)-4-acetyl-7-(1-cyclopropyl-1H-pyrazol-4-yl)-3-methyl-6-(methylsulfonamido)-3,4-dihydroquinoxaline-1(2H)-carboxylate | 0.0087 g, 73% yield | C(C)(=O)N1[C@H](CN(C2=CC(=C(C=C12)NS(=O)(=O)C)C=1C=NN(C1)C1CC1)C(=O)OC(C)C)C | C22H29N5O5S
